US03978097
To a mixture of 6.4 g (0.4 mol) of 4-isopentyloxy-butanol and 0.32 g (0.004 mol) of pyridine in 40 ml of chloroform are added over a period of 15 minutes with stirring at 0° , 1.42 ml (0.015 mol) of phosphorus tribromide. The mixture is stirred for a period of one hour at 20° and then for 20 hours at 60°C. After cooling to room temperature, the reaction mixture is poured into an ice cold saturated aqueous sodium bicarbonate solution and the reaction product is extracted with chloroform. The chloroform extract is then first washed with water and then with saturated aqueous sodium chloride solution and afterwards dried with sodium sulphate. The chloroform is then evaporated off under reduced pressure. The residue is chromatographed on a silica gel column with hexane/ethyl acetate (99:1 to 98.2) as eluent. After fractional distillation of the practically pure chromatographic fractions, pure 1-bromo-4-isopentyloxy-butane is obtained, as a colourless oil. (Boiling point 40° to 46° 0.03 mm Hg).

reactant | 4-isopentyloxy-butanol | 0.4 mol, 6.4 g | C(CC(C)C)OCCCCO | C9H20O2
reactant | pyridine | 0.004 mol, 0.32 g | N1=CC=CC=C1 | C5H5N
reactant | phosphorus tribromide | 0.015 mol, 1.42 ml | P(Br)(Br)Br | Br3P
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-bromo-4-isopentyloxy-butane | BrCCCCOCCC(C)C | C9H19BrO
